US05945557
Preparation of 1-(3-hydroxyphenyl)-2-(2-thienyl)cyclopropane
To a 250 ml round bottom flask equipped with nitrogen inlet, thermometer, and reflux condenser was charged 5.0 g (0.0205 moles) of 3-(3-hydroxyphenyl)-5-(2-thienyl)-2-pyrazoline, and 5.0 g of powdered sodium hydroxide. The two solids were mixed thoroughly, then heated slowly to 250° C., under a rapid stream of nitrogen. The reaction mixture was heated continuously at 250° C. for a total of 2 hours, then cooled to ambient temperature. The resulting residue was the dissolved in 200 mls of water, then acidified to pH 2 with 1 N aqueous hydrochloric acid. The acidic solution was extracted with 3×100 mls of ethyl ether, and the ether extract was washed with 2×100 mls of water, and 100 mls of saturated aqueous sodium chloride solution. The ether extract was the dried over anhydrous magnesium sulfate, filtered and concentrated to dryness under reduced pressure with a rotary evaporator at 45° C. The resulting crude product was chromatographed on silica gel with a 15% ethyl acetate, 85% hexane mobile phase. The pure fractions were combined and concentrated under reduced pressure on a rotary evaporator to afford 3.6 g of the title compound 1-(3-hydroxyphenyl)-2-(2-thienyl)cyclopropane as a pale yellow liquid. 84% yield

reactant | 3-(3-hydroxyphenyl)-5-(2-thienyl)-2-pyrazoline | 0.0205 moles, 5.0 g | OC=1C=C(C=CC1)C1=NNC(C1)C=1SC=CC1 | C13H12N2OS
reactant | sodium hydroxide | 5.0 g | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | water | 200 mls | O | H2O
product | 1-(3-hydroxyphenyl)-2-(2-thienyl)cyclopropane | 3.6 g, 84% yield | OC=1C=C(C=CC1)C1C(C1)C=1SC=CC1 | C13H12OS
